US08119627B2
A mixture of 4-chlorophenol (2.00 g, 15.56 mmol), 1-fluoro-2-nitrobenzene (2.20 g, 15.56 mmol) and potassium carbonate (2.15 g, 15.56 mmol) in DMF (10 mL) was stirred under reflux for 1 h. After removal of DMF, the residue was dissolved in DCM and washed with NaOH (5%, 3×20 mL) and brine. The organic layer was dried (MgSO4), filtered and evaporated to give 1-(4-chlorophenoxy)-2-nitrobenzene (2.6 g, 67%) as a yellow oil which solidified upon standing at room temperature (mp 33-35° C. from EtOH) and was used in the next step without further purification. Rf: 0.77 (DCM) 1H NMR (270 MHz, CDCl3) δ 696 (2H, AA′BB′), 699 (1H, m), 7.22 (1H, m), 7.31 (2H, AA′BB′), 7.52 (1H, m) and 7.96 (2H, dd, J=8.2, 1.7 Hz)

reactant | 4-chlorophenol | 15.56 mmol, 2.00 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 1-fluoro-2-nitrobenzene | 15.56 mmol, 2.20 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 15.56 mmol, 2.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-chlorophenoxy)-2-nitrobenzene | 2.6 g, 67% | ClC1=CC=C(OC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C12H8ClNO3
